US07960310B2
A solution of indane-1-carboxylic acid (4.1 g, 25.3 mmol) in THF (30 ml) was added in portions to a solution of lithium diisopropylamide in THF (2M, 27.8 ml, 55.6 mmol) with stirring at −20° C. The solution was then stirred at 35° C. for 1 hour, then cooled again to −20° C. and a solution of methyl iodide (2.05 ml, 32.89 mmol) in THF (10 ml) was added. The light yellow solution was warmed at 35° C. for 4 hours before extracting between HCl (2M) and EtOAc to yield the crude product (4.5 g) as a brown oil. This mixture was chromatographed on HPLC with EtOAc/hexane to yield 1-methyl-1-indanecarboxylic acid (1 g) and recovered starting material (700 mg)

reactant | indane-1-carboxylic acid | 25.3 mmol, 4.1 g | C1(CCC2=CC=CC=C12)C(=O)O | C10H10O2
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | methyl iodide | 32.89 mmol, 2.05 ml | CI | CH3I
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 55.6 mmol, 2M, 27.8 ml | C1CCOC1 | C4H8O
product | 1-methyl-1-indanecarboxylic acid | 1 g | CC1(CCC2=CC=CC=C12)C(=O)O | C11H12O2
